US06521754B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isobutyramide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine and isobutyryl chloride the title compound was obtained as a light yellow solid (8%), MS: m/e=336 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isobutyramide | COC1=CC=C(C2=C1N=C(S2)NC(C(C)C)=O)N2CCOCC2 | C16H21N3O3S
